US04689345
3-(5-[(1,1-dimethylethyl)dimethylsiloxy]hept-1-yl)cyclopentene {[[5-(2-cyclopenten-1-yl)-1-ethylpentyl]oxy]1,1-dimethylethyl)dimethylsilane}
The procedure followed is the same as that described in Example 7 and 8 using 3-(5-hydroxyhept-1-yl)cyclopentene {alpha-ethyl-2-cyclopenten-1-pentanol} (32.5 g, 0.177 moles), t-butyldimethylsilylchloride (29.3 g, 0.194 moles), imidazole (13.3 g, 0.194 moles), and dimethylformamide (163 ml). The crude product is fractionally distilled under reduced pressure leaving a clear, colorless oil (48 g, 0.162 moles), BP 103° C./0.15 mm.

reactant | 3-(5-hydroxyhept-1-yl)cyclopentene | OC(CCCCC1C=CCC1)CC | C12H22O
reactant | alpha-ethyl-2-cyclopenten-1-pentanol | C(C)C(CCCCC1C=CCC1)O | C12H22O
reactant | t-butyldimethylsilylchloride | 0.194 moles, 29.3 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 0.194 moles, 13.3 g | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 163 ml | CN(C=O)C | C3H7NO
product | 3-(5-[(1,1-dimethylethyl)dimethylsiloxy]hept-1-yl)cyclopentene {[[5-(2-cyclopenten-1-yl)-1-ethylpentyl]oxy]1,1-dimethylethyl)dimethylsilane | 0.162 moles, 48 g | C1(C=CCC1)CCCCC(CC)OCC(C)(C)[SiH](C)C.CC(C)(C)[Si](OC(CCCCC1C=CCC1)CC)(C)C | 2C18H36OSi
